US04593102
4-[(4-Chlorophenyl)sulfinyl]piperidine, Monohydrochloride
A solution of 5.78 g (0.020 mole) of 4-[(p-chlorophenyl)thio]piperidine hydrochloride hydrate and 4.61 g (0.030 mole) of sodium perborate in 200 ml of dilute hydrochloride acid was stirred at room temperature overnight. The reaction mixture was quenched in dilute sodium hydroxide and the resulting basic solution was extracted with methylene chloride. The methylene chloride layer was dried over magnesium sulfate and the solvent was removed in vacuo to give a white solid, the free base of the title compound. The free base was reacted with ethereal hydrogen chloride and the salt was recrystallized from methanol-diethyl ether to give the product as a white crystalline solid, m.p. 220°-221° C.

reactant | 4-[(p-chlorophenyl)thio]piperidine hydrochloride hydrate | 0.020 mole, 5.78 g | O.Cl.ClC1=CC=C(C=C1)SC1CCNCC1
reactant | sodium perborate | 0.030 mole, 4.61 g | B(=O)O[O-].[Na+]
solvent | hydrochloride | 200 ml | Cl | ClH
product | 4-[(4-Chlorophenyl)sulfinyl]piperidine, Monohydrochloride | Cl.ClC1=CC=C(C=C1)S(=O)C1CCNCC1 | InChI=1S/C11H14ClNOS.ClH/c12-9-1-3-10(4-2-9)15(14)11-5-7-13-8-6-11;/h1-4,11,13H,5-8H2;1H
